US08791132B2
To a solution of isonicotinic acid (200 mg, 1.626 mmol) in DMF (10 mL) was added potassium carbonate (560 mg, 4.065 mmol) and stirred the solution at 80° C. for 30 min. Methanesulfonic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl ester (455 mg, 1.138 mmol) was added portionwise into the reaction mixture, which was stirred at 80° C. 30 min. The progress of reaction was monitored by LCMS and TLC. The reaction mixture was cooled to RT, diluted with water (30 mL) and extracted with EtOAc (2×50 mL). The combined organic layer was washed with water (4×50 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse phase HPLC to yield isonicotinic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester (30 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.79 (d, 2H), 8.58 (d, 2H), 7.77 (d, 2H), 7.23 (d, 1H), 7.18 (s 1H), 7.12 (d,2H), 7.0 (d, 1H), 6.24 (t, 1H), 4.54 (dd, 1H), 4.35 (dd, 1H), 3.68 (s, 2H), 2.76 (t, 2H), 2.61 (m, 1H), 2.51 (s, 3H), 2.43 (s, 3H), 2.43 (m, 1H). Separation by chiral HPLC provided enantiomers 147a and 147b.

reactant | isonicotinic acid | 1.626 mmol, 200 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | potassium carbonate | 4.065 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Methanesulfonic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl ester | 1.138 mmol, 455 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OS(=O)(=O)C)CC1 | C21H25N3O3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | isonicotinic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester | 30 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OC(C2=CC=NC=C2)=O)CC1 | C26H26N4O2
